US05989877
Comparison of Various Heat Treatment Conditions of Broth Filtrate on the Purity of Lovastatin Crystals
Various portions of broth filtrate were treated at different pH-values and temperatures and of different duration, as shown in Table 1. For each set of parameters, 1,000 ml of a broth filtrate of strain AD43 (lovastatin acid concentration of 0.4 g/l) was used. After the treatment, the filtrate was brought to pH=4 using sulfuric acid, and 1,000 ml of toluene were mixed with the filtrate for 30 minutes. The layers were subsequently separated, and the toluene layer was concentrated to a volume of 80 ml by evaporation, and kept at 90° C. for 3 hours. After cooling to room temperature, the toluene was mixed with 40 ml of water, while the pH was adjusted to pH=10 with NaOH. After separation of the layers, the toluene was mixed with another 40 ml of water, while the pH was adjusted to pH=4 using sulfuric acid. After separation of the layers, 0.1 g of active coal, Norit SX Ultra, was added to the toluene solution. The toluene solution was filtered in order to remove the active coal, and subsequently concentrated to 15 ml by evaporation. Cooling to -10° C. resulted in crystallization. The crystals were filtered, washed with 5 ml of cold toluene and then dried under vacuum at room temperature. The crystals were analyzed qualitatively by TLC (Merck silicagel 60F, d=0..25 mm, art.nr. 5715; mobile phase chloroform/methanol in a ratio of 30/1), detection by UV at 254 nm (sensitivity is 0.3% at 0.1 mg of run product) and by iodine staining (sensitivity 0.1% at 0.1 mg of run product). Results of these treatments are shown in Table I.

reactant | lovastatin acid | CC[C@H](C)C(=O)O[C@H]1C[C@H](C=C2[C@H]1[C@H]([C@H](C=C2)C)CC[C@H](C[C@H](CC(=O)O)O)O)C | C24H38O6
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 1,000 ml | C1(=CC=CC=C1)C | C7H8
product | Lovastatin | CC[C@H](C)C(=O)O[C@H]1C[C@H](C=C2[C@H]1[C@H]([C@H](C=C2)C)CC[C@@H]3C[C@H](CC(=O)O3)O)C | C24H36O5
